US07049313B2
4-Methoxy-10,11-dihydro-dibenzo[b,f]thiepine
Hydrazine hydrate (4 ml) and potassium hydroxide (2.72 g, 48 mmol) was added to 6-methoxy-11H-dibenzo[b,f]thiepin-10-one (4.10 g, 16 mmol) in ethylene glycol (20 ml) and the reaction mixture was heated at 175° C. for 3 hours. The reaction mixture was cooled down to room temperature and water was added (100 ml). The white solution was extracted with ether (3×200 ml), the organics were combined, washed with water (100 ml), brine (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo to give an oil which solidify upon standing to give a brown solid which was used without any further purification (2.45 g, 63%).

reactant | Hydrazine hydrate | 4 ml | O.NN
reactant | potassium hydroxide | 48 mmol, 2.72 g | [OH-].[K+]
reactant | 6-methoxy-11H-dibenzo[b,f]thiepin-10-one | 16 mmol, 4.10 g | COC1=CC=CC=2C(CC3=C(SC21)C=CC=C3)=O | C15H12O2S
reactant | water | O | H2O
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 4-Methoxy-10,11-dihydro-dibenzo[b,f]thiepine | COC1=CC=CC2=C1SC1=C(CC2)C=CC=C1 | C15H14OS
